US04686305
4-Hydroxy-4'-propylbiphenyl (2.5 g, 0.012 mol) was dissolved in pyridine (10 ml) and to the solution was added β-(4-pentyloxyphenyl)propionic acid chloride (2.5 g, 0.01 mol) with sufficient shaking, followed by allowing the resulting reaction solution to stand overnight, pouring it in water (100 ml), extracting the resulting oily material with toluene (100 ml), washing the toluene layer with 6N-HCl, then with 2N-NaOH and further with water till the washing water became neutral, filtering, distilling off toluene under reduced pressure, and recrystallizing residual crystals from ethanol to obtain the objective 4'-propyl-4-biphenylyl α-methyl-β-(4-pentyloxyphenyl)propionate. m.p. 84.0°-84.5° C. N-I point 46.0° C. (extrapolated value).

reactant | 4-Hydroxy-4'-propylbiphenyl | 0.012 mol, 2.5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC | C15H16O
reactant | β-(4-pentyloxyphenyl)propionic acid chloride | 0.01 mol, 2.5 g | C(CCCC)OC1=CC=C(C=C1)CCC(=O)Cl | C14H19ClO2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | 4'-propyl-4-biphenylyl α-methyl-β-(4-pentyloxyphenyl)propionate | CC(C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC)CC1=CC=C(C=C1)OCCCCC | C30H36O3
